US08217168B2
6-(2-fluoro-3-pyridinyl)-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione hydrochloride (E16)
6-(2-fluoro-3-pyridinyl)-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione (19.7 mg 0.041 mmol, prepared following an analoguos procedure to that described for Ex9) was diluted in diethyl ether (1 ml) and hydrochloric acid 1M in Et2O (0.045 ml, 0.045 mmol) under nitrogen atmosphere. Solvent was removed and the residue triturated in Et2O (2×1 mL), obtaining 21.8 mg of title compound as a white solid.

reactant | 6-(2-fluoro-3-pyridinyl)-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione | FC1=NC=CC=C1C=1C(NC(N(N1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C23H21F4N5O2
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | diethyl ether | 1 ml | C(C)OCC | C4H10O
solvent | Et2O | 0.045 mmol, 0.045 ml | CCOCC | C4H10O
product | 6-(2-fluoro-3-pyridinyl)-2-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-1,2,4-triazine-3,5(2H,4H)-dione hydrochloride | 21.8 mg | Cl.FC1=NC=CC=C1C=1C(NC(N(N1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C23H21F4N5O2.ClH/c24-19-17(3-1-8-28-19)18-20(33)29-21(34)32(30-18)10-2-9-31-12-16-11-22(16,13-31)14-4-6-15(7-5-14)23(25,26)27;/h1,3-8,16H,2,9-13H2,(H,29,33,34);1H/t16-,22+;/m0./s1
